US07795282B2
Step A: Preparation of methyl 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbimidothioate:
To a solution of 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide (0.120 g, 0.29 mmol) in 2 mL of a 4:1 mixture of DCM:MeOH was added methyl iodide (0.022 mL, 0.34 mmol). After stirring for 16 hours at room temperature, methyl iodide (0.050 mL) was added and the mixture stirred for a further 4 hours then concentrated in vacuo. The residue was partitioned between saturated NaHCO3 (10 mL) and EtOAc (10 mL) and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organic phases were washed with brine (10 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (10-20% ethyl acetate/hexanes) to afford the desired product, 0.124 g, 59%.

reactant | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide | 0.29 mmol, 0.120 g | N(=[N+]=[N-])CCCC1(SC(=NN1C(N)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C18H16F2N6S2
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | methyl iodide | 0.34 mmol, 0.022 mL | CI | CH3I
reactant | methyl iodide | 0.050 mL | CI | CH3I
solvent | MeOH | CO | CH4O
product | methyl 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbimidothioate | N(=[N+]=[N-])CCCC1(SC(=NN1C(=N)SC)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C19H18F2N6S2
